US08084449B2
6-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid
To methyl 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylate (32 g, 68.6 mmol) in a 1 L round-bottom flask under nitrogen in tetrahydrofuran (THF) (600 mL) was added water (150 mL), then lithium hydroxide (2.464 g, 103 mmol). After 22 min the slightly cloudy mixture was filtered and the THF was evaporated off to give a slight suspension. The aqueous mixture was cooled in an ice-bath and taken to pH 6 using 2M hydrochloric acid. This mixture was stirred for 10 min in an ice-bath, the pH re-checked but not much material seemed to have come out of solution. So the pH was further reduced to pH 5 and this seemed to bring more material out of solution. The solid was collected by vacuum filtration, washed with water then dried under high vacuum at 40° C. to give 19.2 g (62%) of a white solid that the Lab HPLC showed to be 98.7% pure with a retention time of 1.76 min. LC-MS m/z 453 (M+H)+, 0.72 min (ret time) [split peak].

reactant | methyl 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylate | 68.6 mmol, 32 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)OC)CC | C24H30N6O4
reactant | water | 150 mL | O | H2O
reactant | lithium hydroxide | 103 mmol, 2.464 g | [OH-].[Li+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | 6-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid | 19.2 g, 62% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)O)CC | C23H28N6O4
